US03937838
Example 3. Preparation of 1-(3',5'-dibenzyloxyphenyl)-2-(benzyl-t-butylamino)-ethanol
To 18.3 g of 3',5'-dibenzyloxy-ω-(benzyl-t-butylamino)-acetophenone in ethanol were added 2 g of sodium borohydride. The reaction mixture was allowed to stand overnight. Some methanol was added and the solution was evaporated. To the residue was added water and 2-N sodium hydroxide solution and the water phase was extracted with ether. The ether phase was dried with magnesium sulphate. The ether was evaporated and an oil was collected, which crystallized on standing. M.p. 78°-79°C. The resulting 1-(3',5'-dibenzyloxyphenyl)-2-(benzyl-t-butylamino)-ethanol can be converted to the corresponding 1-(3',5'-dihydroxyphenyl)-2-(t-butylamino)-ethanol by replacing benzyl groups with hydrogen in a known manner.

reactant | 3',5'-dibenzyloxy-ω-(benzyl-t-butylamino)-acetophenone | 18.3 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O | C33H35NO3
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 1-(3',5'-dibenzyloxyphenyl)-2-(benzyl-t-butylamino)-ethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)O | C33H37NO3
